US07381719B2
6-{4-[(tert-Butoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-nicotinic acid
Combine 6-{4-[(tert-Butoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-nicotinic acid ethyl ester (0.333 g, 0.72 mmol), MeOH (5 mL), THF (5 mL), and 2.5N NaOH (aq) (2 mL). After the reaction refluxes under a Nitrogen atmosphere for 24 hours, concentrate under reduced pressure. Add 2.5N HCl (aq) (2 mL), Ethyl acetate, and wash with water, brine, and then dry over Na2SO4. Concentrate the organic mixture under reduced pressure to afford 293.0 mg (91% yield) of title compound as a white foam: 1H NMR (500 MHz, CDCl3); 1.4 (9H, s), 2.6-2.8 (2H, m), 3.2-3.4 (2H, m), 4.2-4.4 (2H, m), 4.3-4.4 (2H, m), 6.9 (1H, d), 7.0-7.3 (9H, m), 8.3 (1H, d), 8.8 (1H, s); MS m/z 349 (M−100, Boc).

reactant | 6-{4-[(tert-Butoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-nicotinic acid ethyl ester | 0.72 mmol, 0.333 g | C(C)OC(C1=CN=C(C=C1)OC1=CC=C(C=C1)CN(CCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C28H32N2O5
reactant | MeOH | 5 mL | CO | CH4O
reactant | NaOH | 2.5N, 2 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-{4-[(tert-Butoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-nicotinic acid | 293.0 mg, 91% yield | C(C)(C)(C)OC(=O)N(CCC1=CC=CC=C1)CC1=CC=C(OC2=NC=C(C(=O)O)C=C2)C=C1 | C26H28N2O5
